US08471005B2
Into a 8-dram vial, 19.10 M of Sodium hydroxide in Water (10.0 mL, 191 mmol) and Water (10.0 mL) water were added. The mixture was heated at 100° C. 2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine (2.00 g, 6.96 mmol) was added portion wise over 10 minutes. The reaction mixture was heated at 120° C. for 60 minutes. HPLC suggested no SM. The reaction was cooled to room temperature. Glacial acetic acid was added to adjust pH to 4. The mixture was stirred at room temperature for 30 minutes. The solid was filtered, washed with water and subsequently with Et2O. The resulting solid was dried under vacuum overnight to give 7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol as a yellow solid (1.50 g, 85%). LCMS 242.15 (M+H).

reactant | Sodium hydroxide | 19.10 M | [OH-].[Na+]
reactant | 2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | 6.96 mmol, 2.00 g | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C14H13N3O2S
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | Water | 10.0 mL | O | H2O
solvent | Water | 191 mmol, 10.0 mL | O | H2O
product | 7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol | 1.50 g, 85% | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)O | C13H11N3O2
